US05792769
b) 3-Trifluoromethylbenzenesulfonic acid 3-hydroxy-5-methylphenyl ester
A mixture of 3-trifluoromethylbenzenesulfonic acid 3-benzyloxy-5-methylphenyl ester (633 mg, 1.5 mmol), as prepared in the preceding step, and 10% palladium on carbon (100 mg) in ethanol (20 mL) was hydrogenated (balloon) for 3 h. The catalyst was removed by filtration through diatomaceous earth (methanol washes) and the filtrate was evaporated in vacuo to give the title compound as a colorless syrup (485 mg, 97%). 1H-NMR (300 MHz, CDCl3 /CD3OD) δ 2.20 (s, 3H), 6.26 (s, 1H), 6.30 (t, 1H), 6.57 (s, 1H), 7.74 (t, 1H), 7.96 (d, 1H), 8.05 (d, 1H), 8.09 (s, 1H).

reactant | 3-trifluoromethylbenzenesulfonic acid 3-benzyloxy-5-methylphenyl ester | 1.5 mmol, 633 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C21H17F3O4S
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Trifluoromethylbenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 485 mg, 97% | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C14H11F3O4S
